US05856474
2.28 g of 7-amino-3-formyl-3-cephem-4-carboxylic acid are stirred for 15 minutes at 0° in a mixture of 50 ml of dichloromethane and 20 ml of acetonitrile with 5.4 ml of N,O-bis-(trimethylsilyl)-acetamide. A light yellow solution is obtained. 7-trimethylsilylamino-3-formyl-3-cephem-4-carboxylic acid trimethylsilylester may be obtained from this solution by means of evaporation.

reactant | 7-amino-3-formyl-3-cephem-4-carboxylic acid | 2.28 g | NC1[C@@H]2N(C(=C(CS2)C=O)C(=O)O)C1=O | C8H8N2O4S
reactant | N,O-bis-(trimethylsilyl)-acetamide | 5.4 ml | CC(=N[Si](C)(C)C)O[Si](C)(C)C | C8H21NOSi2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 7-trimethylsilylamino-3-formyl-3-cephem-4-carboxylic acid trimethylsilylester | C[Si](C)(C)OC(=O)C1=C(CS[C@H]2N1C(C2N[Si](C)(C)C)=O)C=O | C14H24N2O4SSi2
